US04187216
(i) N-Benzyloxycarbonyl-L-proline n-pentylamide
12.46 g (0.05 mol) of N-benzyloxycarbonyl-L-proline were dissolved in 100 ml of dry tetrahydrofuran and the solution was cooled to -10° C. The solution was stirred and there were added thereto 6.56 ml (0.05 mol) of isobutyl chloroformate and 6.35 ml (0.05 mol) of N-ethylmorpholine. The mixture was then stirred at -10° C. for 15 minutes. 5.76 ml (0.05 mol) of n-pentylamine were then added and the resulting mixture was stirred at 0° C. for 1 hour and then at room temperature for 16 hours. The mixture was evaporated to an oil and 400 ml of water were added. The resulting mixture was extracted with two 150 ml portions of ethyl acetate, the organic layers were combined and washed successively with two 100 ml portions of 5% citric acid solution, once with 100 ml of water, twice with 100 ml portions of 5% sodium bicarbonate solution and once with 100 ml of water. The organic layer was dried over sodium sulphate, evaporated to an oil and triturated with 350 ml of petroleum ether. On scratching, the product crystallized out, was filtered off and washed with 100 ml of petroleum ether. There were thus obtained 10.16 g (64%) of N-benzyloxycarbonyl-L-proline n-pentylamide of melting point 74°-76° C. A second crop (0.800 g) of melting point 76°-79° C. was obtained from the mother liquor.

reactant | N-benzyloxycarbonyl-L-proline | 0.05 mol, 12.46 g | C(C1=CC=CC=C1)OC(=O)N1[C@H](C(=O)O)CCC1 | C13H15NO4
reactant | isobutyl chloroformate | 0.05 mol, 6.56 ml | ClC(=O)OCC(C)C | C5H9ClO2
reactant | N-ethylmorpholine | 0.05 mol, 6.35 ml | C(C)N1CCOCC1 | C6H13NO
reactant | n-pentylamine | 0.05 mol, 5.76 ml | C(CCCC)N | C5H13N
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | N-Benzyloxycarbonyl-L-proline n-pentylamide | C(CCCC)NC([C@H]1N(CCC1)C(=O)OCC1=CC=CC=C1)=O | C18H26N2O3
